US03937835
To 200 ml of chlorobenzene is added 16.1 g (0.0745 mole) of 2,8 -dihydroxydibenzothiophene, 16.8 g (0.156 mole) of 2-dimethylaminoethyl chloride and 8.3 g (0.154 mole) of sodium methoxide. The mixture is stirred and heated to reflux for 16 hours. The cooled reaction mixture is filtered and the filtrate is washed with several portions of water, then dried over anhydrous magnesium sulfate. The chlorobenzene solution is evaporated in vacuo. The oily residue is dissolved in ether and treated with ethereal hydrogen chloride to give 2,8-bis(2-dimethylaminoethoxy)dibenzothiophene dihydrochloride which is crystallized from methanol-butanone, M.P. 248°-250°C.

reactant | 2,8 -dihydroxydibenzothiophene | 0.0745 mole, 16.1 g | OC1=CC2=C(SC3=C2C=C(C=C3)O)C=C1 | C12H8O2S
reactant | 2-dimethylaminoethyl chloride | 0.156 mole, 16.8 g | CN(CCCl)C | C4H10ClN
reactant | sodium methoxide | 0.154 mole, 8.3 g | C[O-].[Na+]
solvent | chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2,8-bis(2-dimethylaminoethoxy)dibenzothiophene dihydrochloride | Cl.Cl.CN(CCOC1=CC2=C(SC3=C2C=C(C=C3)OCCN(C)C)C=C1)C | InChI=1S/C20H26N2O2S.2ClH/c1-21(2)9-11-23-15-5-7-19-17(13-15)18-14-16(6-8-20(18)25-19)24-12-10-22(3)4;;/h5-8,13-14H,9-12H2,1-4H3;2*1H
